US07473790B2
Step 2: Preparation of compound 2-(4-bromo-2-fluorophenyl)-2-methylpropanenitrile
To a solution of MeI (3.2 mL, 49.3 mmol) in anhydrous DMF (82 mL) at 0° C. was added NaH (60%, 2.0 g), followed by (4-bromo-2-fluorophenyl)acetonitrile (3.5 g, 16.4 mmol). The mixture was slowly warmed up to room temperature and stirred for 3 hours. The reaction was quenched by the addition of saturated NH4Cl and extracted with EtOAc (3×150 mL). The combined organic extracts were washed with brine, dried with Na2SO4 and evaporated to dryness. The mixture was purified by flash column chromatography (0-20% EtOAc in hexanes) to give the product (3.0 g, 77% yield). 1H NMR (300 MHz, CDCl3) δ: 1.78 (s, 6H), 7.26-7.42 (m, 3H).

reactant | MeI | 49.3 mmol, 3.2 mL | CI | CH3I
reactant | NaH | 2.0 g | [H-].[Na+]
reactant | (4-bromo-2-fluorophenyl)acetonitrile | 16.4 mmol, 3.5 g | BrC1=CC(=C(C=C1)CC#N)F | C8H5BrFN
reactant | DMF | 82 mL | CN(C)C=O | C3H7NO
product | 2-(4-bromo-2-fluorophenyl)-2-methylpropanenitrile | 3.0 g, 77% yield | BrC1=CC(=C(C=C1)C(C#N)(C)C)F | C10H9BrFN
